US05599770
Synthesis of 4,6-dichloro-2-(phenylmethoxy)pyrimidine (Compound I-173)
4, 6-Dichloro-2-(methysulfonyl)pyrimidine (Compound III-5) (21.3 g, 93.8 mmol) and benzyl alcohol (Compound II-64) (10.1 g, 93.8×1.0 mmol) were introduced into a 500 ml eggplant type flask, to which dimethylformamide (150 ml) was added to form a solution. While stirring in ice bath, 60% sodium hydride (3.94 g, 93.8×1.05 mmol) which had been washed with hexane was added. After bubbling was ceased, ice bath was removed and the reaction solution was stirred for 2 hours at room temperature. The reaction mixture was poured onto ice and the separated organic matter was extracted with ethyl acetate. The organic phase was washed successively with diluted hydrochloric acid and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and thereafter, the solvent was distilled off. The residue was purified on silica gel column chromatography (Wakogel C300, ethyl acetate/hexane=1/50(v/v)) to obtain the compound (I-173) as an oily product.

reactant | 4, 6-Dichloro-2-(methysulfonyl)pyrimidine | 93.8 mmol, 21.3 g | ClC1=NC(=NC(=C1)Cl)S(=O)(=O)C | C5H4Cl2N2O2S
reactant | benzyl alcohol | 1.0 mmol, 10.1 g | C(C1=CC=CC=C1)O | C7H8O
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 1.05 mmol, 3.94 g | [H-].[Na+]
solvent | hexane | CCCCCC | C6H14
product | 4,6-dichloro-2-(phenylmethoxy)pyrimidine | ClC1=NC(=NC(=C1)Cl)OCC1=CC=CC=C1 | C11H8Cl2N2O
